US06673803B2
A solution of 7-(2-bromoethoxy)-4-(4-chloro-2-fluoroanilino)-6-methoxyquinazoline (130 mg, 0.36 mmol), (prepared as described for the starting material in Example 62), in 1-ethoxycarbonylpiperazine (1.5 ml) was stirred and heated at 100° C. for 2 hours. The mixture was allowed to cool, diluted with water and extracted with ethyl acetate (3×25 ml). The extracts were combined, washed with water (×2) and then brine, and dried (MgSO4). The solvent was removed by evaporation and the residue was dissolved in acetone and 1M ethereal hydrogen chloride (2 ml) was added. The resulting precipitate was collected by filtration and then purified by column chromatography eluting with methylene chloride/methanol/aqueous ammonia (94/5/1). The purified product was dissolved in acetone and 1M ethereal hydrogen chloride (2 ml) was added. The resulting precipitate was collected by filtration, washed with ether and dried to give 4-(4chloro-2-fluoroanilino)-7-(2-(4-ethoxycarbonylpiperazin-1-yl)ethoxy)-6-methoxyquinazoline hydrochloride (85 mg, 46%).

reactant | 7-(2-bromoethoxy)-4-(4-chloro-2-fluoroanilino)-6-methoxyquinazoline | 0.36 mmol, 130 mg | BrCCOC1=C(C=C2C(=NC=NC2=C1)NC1=C(C=C(C=C1)Cl)F)OC | C17H14BrClFN3O2
reactant | 1-ethoxycarbonylpiperazine | 1.5 ml | C(C)OC(=O)N1CCNCC1 | C7H14N2O2
solvent | water | O | H2O
product | 4-(4chloro-2-fluoroanilino)-7-(2-(4-ethoxycarbonylpiperazin-1-yl)ethoxy)-6-methoxyquinazoline hydrochloride | 85 mg, 46% | Cl.ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCCN2CCN(CC2)C(=O)OCC)C=C1)F | InChI=1S/C24H27ClFN5O4.ClH/c1-3-34-24(32)31-8-6-30(7-9-31)10-11-35-22-14-20-17(13-21(22)33-2)23(28-15-27-20)29-19-5-4-16(25)12-18(19)26;/h4-5,12-15H,3,6-11H2,1-2H3,(H,27,28,29);1H
